US04048180
To stirred liquid ammonia (2 liters) was added ferric nitrate (0.1 gm) followed by sodium metal (2.3 gms) in small pieces. The mixture was allowed to stand for 30 minutes and 3-(4-pyridyl)-propionaldehyde diethyl acetal (20.0 gms) was then added. A deep yellow colour was allowed to develop over a period of 2 hours, after which time ethylene sulphide (6.0 gms) was added quickly. A vigorous reaction occurred and the mixture was stirred for a further 5 hours. Ammonium chloride (7 gms) was added and the solvent was allowed to evaporate overnight. The residual tacky solid was extracted into pyridine and filtered and the solvent was evaporated from the filtrate. Distillation of the residual oil yielded 3-(4-pyridyl)-5,5-diethoxy-pentane-1-thiol (17 gms, 63% conversion) b.p. 167°-172° C/1 mm Hg, characterised by the following spectra:

reactant | sodium | 2.3 gms | [Na] | Na
reactant | 3-(4-pyridyl)-propionaldehyde diethyl acetal | 20.0 gms | C(C)OC(CCC1=CC=NC=C1)OCC | C12H19NO2
reactant | ethylene sulphide | 6.0 gms | C1CS1 | C2H4S
reactant | Ammonium chloride | 7 gms | [Cl-].[NH4+]
solvent | ammonia | 2 liters | N | H3N
product | 3-(4-pyridyl)-5,5-diethoxy-pentane-1-thiol | 17 gms, 63% | N1=CC=C(C=C1)C(CCS)CC(OCC)OCC | C14H23NO2S
